US03975390
A mixture of 9.25 g. of 3-nitro-4-chloro-benzophenone, 10 ml. of ethanol and 10.3 g. of N-methyl-N-octylamine is stirred at 80° to 85 °C for 30 minutes, and then the mixture is poured onto 100 ml. of ice water. The aqueous phase is extracted with 2×75 ml. of benzene. The benzene phases are combined, washed with distilled water until chloride-free, dried over anhydrous magnesium sulphate, filtered, and evaporated in vacuo. 11.57 g. of 3-nitro-4-(N-methyl-N-octylamino)-benzophenone are obtained in the form of an oily residue. On the basis of thin layer chromatographical examination, a pure, uniform product is obtained.

reactant | 3-nitro-4-chloro-benzophenone | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=CC=C2)C=CC1Cl | C13H8ClNO3
reactant | N-methyl-N-octylamine | CNCCCCCCCC | C9H21N
solvent | ethanol | C(C)O | C2H6O
product | 3-nitro-4-(N-methyl-N-octylamino)-benzophenone | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=CC=C2)C=CC1N(CCCCCCCC)C | C22H28N2O3
